US04730006
3-phthalimido-4,4-difluoro-7-methoxy-1-heptene (37)
A mixture of 3-amino-4,4-difluoro-7-methoxy-1-heptene (420 mg, 2.3 mmoles) and N-carbetoxyphthalimide (506 mg, 2.3 mmoles) in benzene (9 ml) is kept at 25° C. overnight. After concentration under reduced pressure, the residue is dissolved in dichloromethane (5 ml) and treated with triethylamine (0.7 ml) for 41/2 hours. After addition of dichloromethane, the solution is washed with 1N HCl and water. Usual work-up affords an oil (610 mg) which is purified by chromatography on silica (ethyl acetate/petroleum ether: 20/80 RF: 0.4): 440 mg (62%).

reactant | 3-amino-4,4-difluoro-7-methoxy-1-heptene | 2.3 mmoles, 420 mg | NC(C=C)C(CCCOC)(F)F | C8H15F2NO
reactant | N-carbetoxyphthalimide | 2.3 mmoles, 506 mg | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
product | 3-phthalimido-4,4-difluoro-7-methoxy-1-heptene | 610 mg | C1(C=2C(C(N1C(C=C)C(CCCOC)(F)F)=O)=CC=CC2)=O | C16H17F2NO3
